US04426321
According to the procedure described in Example 1, from 58 g of 1-chloro-3-methyl-2,4-pentadiene and 43 g of pentan-3-one (diethyl ketone) in the presence of 50 g of powdered potassium hydroxide in 200 ml of dry pentane there are obtained 51 g of crude 4,7-dimethyl-6,8-nonadien-3-one which are subjected to a fractional distillation.

reactant | 1-chloro-3-methyl-2,4-pentadiene | 58 g | ClCC=C(C=C)C | C6H9Cl
reactant | pentan-3-one | 43 g | CCC(CC)=O | C5H10O
reactant | potassium hydroxide | 50 g | [OH-].[K+]
solvent | pentane | 200 ml | CCCCC | C5H12
product | 4,7-dimethyl-6,8-nonadien-3-one | 51 g | CC(C(CC)=O)CC=C(C=C)C | C11H18O
